US07595325B2
1-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2-yl]-3-(2-fluoro-phenyl)-urea
1-Fluoro-2-isocyanato-benzene (0.09 mL, 0.81 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-pyridin-4-yl)-methanone (0.20 g, 0.67 mmol) in pyridine (2 mL). The mixture was heated to 80° C. in a sealed tube for 2 h. The reaction mixture was quenched with water (10 mL) and extracted with hot EtOAc/MeOH (95:5, 3×10 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash column chromatography (ethyl acetate/MeOH 99:1) afforded the title compound as a yellow solid (160 mg, 55%). MS: 434.2 (MH+); HPLC Rf: 5.83 min. (HPLC method 4); HPLC purity: 98%.

reactant | 1-Fluoro-2-isocyanato-benzene | 0.81 mmol, 0.09 mL | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-pyridin-4-yl)-methanone | 0.67 mmol, 0.20 g | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC=C2)N)C(C)C | C15H16N6O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2-yl]-3-(2-fluoro-phenyl)-urea | 160 mg, 55% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC=C2)NC(=O)NC2=C(C=CC=C2)F)C(C)C | C22H20FN7O2
